### PR TITLE
[Merged by Bors] - feat(NumberTheory/ModularForms): API lemmas for level-1 graded ring

### PR DESCRIPTION
**Pull request by CBirkbeck**
Adds API lemmas extracted from #38813 to keep that PR reviewable: `DirectSum.of_eq_of_eq`, `DirectSum.of_eq_sub_add_smul`, `ModularForm.cast_apply`, `ModularForm.mul_ne_zero`, `ModularForm.sub_smul_isCuspForm`.

### CODE REVIEW

File: Mathlib/NumberTheory/ModularForms/QExpansion.lean [hunk 1]
```diff
@@ -587,6 +588,15 @@ protected lemma qExpansion_one [Γ.HasDetPlusMinusOne] :
...
   simp [qExpansion_one]
 
+protected lemma mul_ne_zero [Γ.HasDetPlusMinusOne] (hh : 0 < h) (hΓ : h ∈ Γ.strictPeriods)
+    {a b : ℤ} {f : ModularForm Γ a} {g : ModularForm Γ b} (hf : f ≠ 0) (hg : g ≠ 0) :
+    f.mul g ≠ 0 := by
+  rw [Ne, ← ModularForm.qExpansion_eq_zero_iff hh hΓ,
+    ModularForm.qExpansion_mul hh hΓ, mul_eq_zero, not_or]
+  exact ⟨(ModularForm.qExpansion_eq_zero_iff hh hΓ _).not.mpr hf,
+    (ModularForm.qExpansion_eq_zero_iff hh hΓ _).not.mpr hg⟩
+
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/ModularForms/QExpansion.lean:622]: why the extra blank line?

**Comment by riccardobrasca** [comment]
@CBirkbeck Is this ready for review?

**Comment by CBirkbeck** [comment]
yes!

File: Mathlib/NumberTheory/ModularForms/Basic.lean [hunk 2]
```diff
@@ -565,6 +565,14 @@ def mcast {a b : ℤ} {Γ Γ' : Subgroup (GL (Fin 2) ℝ)} (h : a = b) (f : Modu
   holo' := f.holo'
   bdd_at_cusps' hc := h ▸ f.bdd_at_cusps' (hΓ ▸ hc)
 
+/-- Transporting a `ModularForm` along an equality of weights does not change its pointwise
+values. -/
+theorem cast_apply {Γ : Subgroup (GL (Fin 2) ℝ)} {k₁ k₂ : ℤ}
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/ModularForms/Basic.lean]: You should use [ModularForm.mcast](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/ModularForms/Basic.html#ModularForm.mcast) in the statement.

File: Mathlib/NumberTheory/ModularForms/QExpansion.lean [hunk 3]
```diff
@@ -610,6 +611,14 @@ protected lemma qExpansion_pow [Γ.HasDetPlusMinusOne] (hh : 0 < h)
     rw [coe_pow, pow_succ, ← coe_pow, ← coe_mul, ModularForm.qExpansion_mul hh hΓ, ih,
       pow_succ]
 
+/-- The product of two non-zero modular forms is non-zero. -/
+protected lemma mul_ne_zero [Γ.HasDetPlusMinusOne] (hh : 0 < h) (hΓ : h ∈ Γ.strictPeriods)
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/ModularForms/QExpansion.lean]: Something is strange here. `h` is not used in the statement. If what you really need is the existence it should be buried under a `∃`.

**Comment by riccardobrasca** [comment]
@CBirkbeck cna you have a look at the comments? This is more or less ready to go.

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors merge
